US06020366
Step (a) (S)-4-Dibenzofuran-2-yl-4-oxo-2-(2,2,2-trifluoro-acetylamino)-butyric acid tert-butyl ester
To a DMF solution (10 mL) of (S)-4-dibenzofuran-2-yl-4-oxo-2-(2,2,2-trifluoroacetylamino)-butyric acid (0.3 g, 0.00079 mol) at 40° C. was added carbonyldimidazole (0.13 g, 0.00079 mol). This mixture was stirred for 1 hour and then 1,8-diazabicyclo-[5.4.0]undec-7-ene (DBU, 0.12 mL, 0.00079 mol) and t-butanol (0.15 mL, 0.00158 mol) were added. The reaction mixture was stirred for 24 hours at 40° C., cooled to 24° C., and then diluted with ether (20 mL). The solution was washed with water (2×10 mL), brine (2×10 mL), and dried over anhydrous magnesium sulfate. The mixture was filtered and the filtrate was concentrated to an oil by evaporation of the solvent in vacuo. The oil was flash chromatographed on silica gel eluting with 20% ethyl acetate/hexane (v/v) to yield the title compound; mp 92-94° C.

reactant | (S)-4-dibenzofuran-2-yl-4-oxo-2-(2,2,2-trifluoroacetylamino)-butyric acid | 0.00079 mol, 0.3 g | C1=C(C=CC=2OC3=C(C21)C=CC=C3)C(C[C@@H](C(=O)O)NC(C(F)(F)F)=O)=O | C18H12F3NO5
reactant | carbonyldimidazole | 0.00079 mol, 0.13 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1,8-diazabicyclo-[5.4.0]undec-7-ene | 0.00079 mol, 0.12 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | t-butanol | 0.00158 mol, 0.15 mL | C(C)(C)(C)O | C4H10O
solvent | ether | 20 mL | CCOCC | C4H10O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (S)-4-Dibenzofuran-2-yl-4-oxo-2-(2,2,2-trifluoro-acetylamino)-butyric acid tert-butyl ester | C(C)(C)(C)OC([C@H](CC(=O)C1=CC2=C(OC3=C2C=CC=C3)C=C1)NC(C(F)(F)F)=O)=O | C22H20F3NO5
